US04431653
A mixture of 1-[3-(4-piperidinyl)propyl]-1H-imidazole-2-carboxylic acid 1.75 molar hydrochloride 0.65 molar hydrate (1.3 g, 0.0047 M) and sodium methoxide (0.005 M) in methanol (23 ml) was added to dimethylformamide dimethylacetal (15 ml) and heated at 80° C. for 8 hrs. The reaction mixture was filtered and stripped to dryness to give 4-[3-(2-carboxy-1H-imidazol-1-yl)propyl]-1-piperidine carboxaldehyde. The solution of the above piperidine carboxaldehyde dimethylacetal in methanol (5 ml) was then added to a mixture of 6-aminopenicillanic acid (0.81 g, 0.0037 M) and diisopropylethylamine (0.4 ml) in chloroform (30 ml) at 0° C. The reaction was stirred at 0° C. 2 hrs and room temperature for 2 hrs. The solvent was removed and water (15 ml) was added. After being washed with ether, the aqueous solution, acidified to pH 3 to about 3.5, was purified on Sephadex LH 20 columns to give [2S-(2alpha,5alpha,6beta]-6-[[[1-(3-(2-carboxy-1H-imidazol-1-yl)propyl]-1-piperidinyl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid hydrate (0.38 g, 17% yield).

reactant | 1-[3-(4-piperidinyl)propyl]-1H-imidazole-2-carboxylic acid | 1.75 molar, 1.3 g | N1CCC(CC1)CCCN1C(=NC=C1)C(=O)O | C12H19N3O2
reactant | sodium methoxide | 0.005 M | C[O-].[Na+]
reactant | dimethylformamide dimethylacetal | 15 ml | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 23 ml | CO | CH4O
product | 4-[3-(2-carboxy-1H-imidazol-1-yl)propyl]-1-piperidine carboxaldehyde | C(=O)(O)C=1N(C=CN1)CCCC1CCN(CC1)C=O | C13H19N3O3
